US05071738
Synthesis of monomer (17), N-[4-(4 -hydroxyphenylsulfonyl) phenyl]-acrylamide:
A mixture of 4-(4'-hydroxyphenylsulfonyl)aniline (23.3 g), pyridine (9.4 g) and nitrobenzene (1 ml) is added to 400 ml of tetrahydrofuran. To the ice-cooled solution, 9.0 g of acrylic acid chloride is added dropwise and stirred for 30 min. The stirred mixture is added to 2,000 ml of water and the precipitating crystal is separated by filtration. The resulting crystal is recrystallized with ethanol to obtain the end compound in an amount of 28.5 g. The structure of this compound is verified by IR, NMR and mass spectra.

reactant | 4-(4'-hydroxyphenylsulfonyl)aniline | 23.3 g | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C12H11NO3S
reactant | pyridine | 9.4 g | N1=CC=CC=C1 | C5H5N
reactant | nitrobenzene | 1 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acrylic acid chloride | 9.0 g | C(C=C)(=O)Cl | C3H3ClO
solvent | water | 2,000 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-[4-(4 -hydroxyphenylsulfonyl) phenyl]-acrylamide | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C=C)=O | C15H13NO4S
